US03952017
Preparation of 1-methyl-10,11-dihydro-5-(3-methylaminopropyl)-5H-dibenzo[a,d]cycloheptene
12.2 g. of 1-methyl-10,11-dihydro-5-(3-dimethylaminopropyl)-5H-dibenzo[a,d]cycloheptene, dissolved in 180 ml. of dry benzene, are added dropwise to a mixture of 13.6 g. of ethyl chloroformate and 50 ml. of dry benzene. The mixture is boiled and stirred under reflux for 20 hours. After cooling, the benzene solution is washed with dilute hydrochloric acid and water and evaporated. The residual 1-methyl-10,11-dihydro-5-(3-methylcarbethoxyaminopropyl)-5H-dibenzo[a,d]cycloheptene distils at 180° C/0.01 mmHg. 10.6 g. of 1-methyl-10,11-dihydro-5-(3-methylcarbethoxyaminopropyl)-5H-dibenzo[a,d]cycloheptene, 12.6 g. of potassium hydroxide and 110 ml. of n-butanol are boiled at reflux for 20 hours under an atmosphere of nitrogen with strong stirring. The butanol is removed by distillation under reduced pressure. The residue is taken up in ether and the etheral solution shaken with dilute hydrochloric acid. By treatment of the aqueous acidic phase with excess potassium carbonate, 1-methyl-10,11-dihydro-5-(3-methylaminopropyl)-5H-dibenzo[a,d]cycloheptene separates out as an oil which distils at 150° C. under 0.01 mmHg. After recrystallization from ethanol-ether, the hydrochloride has a melting point of 173°-175° C.

reactant | 1-methyl-10,11-dihydro-5-(3-dimethylaminopropyl)-5H-dibenzo[a,d]cycloheptene | CC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCCN(C)C | C21H27N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-methyl-10,11-dihydro-5-(3-methylaminopropyl)-5H-dibenzo[a,d]cycloheptene | CC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCCNC | C20H25N
